US07576080B2
Thionyl chloride (13 mg, 0.11 mmol) was added to a solution of 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzoic acid (43 mg, 0.10 mmol) in tetrahydrofuran (2.0 mL) with stirring at 70° C. Stirring continued for one hour at 70° C. and then the mixture was cooled to 25° C. and added to a solution of hydrazine (32 mg, 1.0 mmol) in tetrahydrofuran (2.0 mL). The reaction was stirred at room temperature for one hour and the solvent was then removed in vacuo. The residue was dissolved in ethyl acetate (30 mL), washed with of aqueous sodium bicarbonate solution (20 mL), concentrated, and purified by column chromatography over silica gel using 2% methanol in ethyl acetate as eluant to give 22 mg (50%) of 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzohydrazide as a white solid. MS [M+H] 439.2, 1H NMR (CDCl3) δ (ppm) 8.65 (s, 1H), 7.50-7.35 (m, 2H), 7.32-7.21 (m, 3H), 7.18 (s, 1H), 7.10-6.97 (m, 2H), 6.94 (d, J=2.7 Hz, 1H), 4.59 (t, J=6.9 Hz, 2H), 4.11 (s, 2H), 3.74 (t, J=6.0 Hz, 2H), 2.09 (m, 2H).

reactant | Thionyl chloride | 0.11 mmol, 13 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzoic acid | 0.10 mmol, 43 mg | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)OCCCOC=2C=C(C(=O)O)C=CC2 | C22H17FN2O4S
reactant | hydrazine | 1.0 mmol, 32 mg | NN | H4N2
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzohydrazide | 22 mg, 50% | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)OCCCOC=2C=C(C(=O)NN)C=CC2 | C22H19FN4O3S
